US05849732
Under ice-cooling, 0.407 g of 62.4% sodium hydride was added to a mixture of 4.00 g of 2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol, 1.9 ml of chloromethylpivalate and 40 ml of dimethylformamide (DMF), and the temperature of the mixture was gradually raised to room temperature. The mixture was further stirred at room temperature for 2 hours. A saturated saline solution was added to the mixture and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=4:1) and precipitated crystals were recrystallized from an isopropyl ether solution. The obtained crystals were dissolved in 10 ml of dichloromethane, and 5 ml of 4N hydrogen chloridedioxane solution was added to the solution. The mixture was evaporated to dryness under reduced pressure. The residue was crystallized from a diethyl ether solution to give 1.65 g of O-pivaloyloxymethyl-2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride (melting point: 114°-118° C. (decomposed)).

reactant | sodium hydride | 0.407 g | [H-].[Na+]
reactant | 2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol | 4.00 g | C1(CCCCCC1)N(C(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O)C1=CC=C(C=C1)N(C)C | C27H39N3O3
reactant | chloromethylpivalate | 1.9 ml | ClCCC(C(=O)[O-])(C)C
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | O-pivaloyloxymethyl-2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride | 1.65 g | Cl.C(C(C)(C)C)(=O)OCOC1=C(C=C(C=C1C(C)(C)C)OC)NC(=O)N(C1=CC=C(C=C1)N(C)C)C1CCCCCC1 | InChI=1S/C33H49N3O5.ClH/c1-32(2,3)27-20-26(39-9)21-28(29(27)40-22-41-30(37)33(4,5)6)34-31(38)36(24-14-12-10-11-13-15-24)25-18-16-23(17-19-25)35(7)8;/h16-21,24H,10-15,22H2,1-9H3,(H,34,38);1H
